US07115750B1
6-Acetamido-2-tetralone
m-Chloroperbenzoic acid (5.13 g, 20.8 mmol) was added to a chloroform solution (80 ml) of N-(7,8-dihydro-2-naphthalenyl)acetamide (3.00 g, 16.0 mmol) obtained in 1) under ice-cooling, which was stirred at room temperature for 2 hours. Ethyl acetate was added to the reaction mixture, which was washed with saturated sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then the solvent was distilled out under reduced pressure. The resulting oily substance was purified by alumina B column chromatography (development solvent; hexane:ethyl acetate=1:1). 1N Sodium hydroxide solution (10.7 ml) was added to a methanol solution (100 ml) of the obtained oily substance (3.20 g, 8.89 mmol) under ice-cooling, which was stirred at room temperature for 30 minutes. The solvent was distilled out under reduced pressure. Ethyl acetate was added to the residue, which was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then the solvent was distilled out under reduced pressure. The resulting oily substance was purified by alumina B column chromatography (development solvent; ethyl acetate: methanol=10:1). p-Toluenesulfonic acid (50 mg, 0.262 mmol) and toluene (26 ml) were added to the obtained diol (596 mg, 2.62 mmol), which was stirred at 120° C. for 3 hours. The solvent was distilled out under reduced pressure. Ethyl acetate was added to the residue, which was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then the solvent was distilled out under reduced pressure. The resulting oily substance was purified by silica gel column chromatography (development solvent; hexane:ethyl acetate=1:3), and powdered with diisopropyl ether, to give the titled compound (231 mg).

reactant | m-Chloroperbenzoic acid | 20.8 mmol, 5.13 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
reactant | N-(7,8-dihydro-2-naphthalenyl)acetamide | 16.0 mmol, 3.00 g | C1=C(C=CC=2C=CCCC12)NC(C)=O | C12H13NO
reactant | p-Toluenesulfonic acid | 0.262 mmol, 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 26 ml | C1(=CC=CC=C1)C | C7H8
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Acetamido-2-tetralone | 231 mg | C(C)(=O)NC=1C=C2CCC(CC2=CC1)=O | C12H13NO2
